US09302989B2
N-{6-[1-(3-methylbutyl)-1H-pyrazol-4-yl]pyridin-3-yl}-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 280, substituting 1-isopentyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole for 1H-pyrazol-3-ylboronic acid and N-(6-chloropyridin-3-yl)isoindoline-2-carboxamide for 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.85-8.87 (bs, 1H), 8.81 (d, J=2.5 Hz, 1H), 8.38 (s, 1H), 8.21 (dd, J=8.8, 2.5 Hz, 1H), 8.05 (s, 1H), 7.82 (d, J=8.8 Hz, 1H), 7.31-7.41 (m, 4H), 4.78-4.83 (bs, 4H), 4.19 (t, J=7.1 Hz, 2H), 1.71 (q, J=7.0 Hz, 2H), 1.40-1.59 (m, 1H), 0.92 (d, J=6.6 Hz, 6H); MS (ESI(−)) m/e 374 (M−H)−.

reactant | 1H-pyrazol-3-ylboronic acid | N1N=C(C=C1)B(O)O | C3H5BN2O2
reactant | N-(6-chloropyridin-3-yl)isoindoline-2-carboxamide | ClC1=CC=C(C=N1)NC(=O)N1CC2=CC=CC=C2C1 | C14H12ClN3O
reactant | 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | BrC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H20BrN3O2
product | N-{6-[1-(3-methylbutyl)-1H-pyrazol-4-yl]pyridin-3-yl}-1,3-dihydro-2H-isoindole-2-carboxamide | CC(CCN1N=CC(=C1)C1=CC=C(C=N1)NC(=O)N1CC2=CC=CC=C2C1)C | C22H25N5O
